US07964645B2
Preparation of N-[(Benzhydryl-carbamoyl)-methyl]-4-fluoro-benzamide
Prepared in analogy to example 1.1 from p-fluoro-hippuric acid (CA [366-79-0]) and C,C-diphenylmethylamine.

reactant | p-fluoro-hippuric acid | FC1=CC=C(C(NCC(=O)O)=O)C=C1 | C9H8FNO3
reactant | C,C-diphenylmethylamine | C1(=CC=CC=C1)C(C1=CC=CC=C1)N | C13H13N
product | N-[(Benzhydryl-carbamoyl)-methyl]-4-fluoro-benzamide | C(C1=CC=CC=C1)(C1=CC=CC=C1)NC(=O)CNC(C1=CC=C(C=C1)F)=O | C22H19FN2O2
